Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lactose / Milk / Zyrtec / Bactrim
 
Attending: ___.
 
Chief Complaint:
Vomiting & diarrhea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with PMH bladder prolapse, Hypothyroid, Mild dementia, 
OA, Bipolar who presents with significant diarrhea and decreased 
UOP. Pt is a poor historian but reports diarrhea for about 2 
days that has been profuse and sudden, leading to fecal 
incontinence. She has tried to drink as much fluid as possible 
to keep up but reports her urine output has decreased 
nonetheless. She notes similar sx have been going around her 
nursing home. Denies f/c/s, abd pain, dysuria, N/V, but pt was 
noted to be vomiting in the ED which again points to poor 
history. No CP, SOB, hematochezia, back pain, recent falls, HA, 
Dizziness. No recent ABX. Admits to general weakness. Also 
reports requiring a new pessary for vaginal prolapse and 
scheduled to have this refitted.
In the ED initial VS 97.3 80 132/70 18 98%. Labs significant for 
positive u/a (67 WBC, nitrite pos, bacteria); normal renal 
function, normal lactate, and a mild acidosis (likely ___ 
diarrhea). WBC count of 11.5 with 95% PMN, plats 130, and Hct of 
43.3. She was not orthostatic. She was given macrobid, zofran 
for nausea, and bismuth for diarrhea. A CT scan was obtained 
which showed her known inguinal hernia but not concerning for 
strangulation. She had persistent vomiting in the ED so was 
admitted due to inability to tolerate po, dehydration, and UTI.
On the floor, VS 98.1, 128/52, 80, 18, 99% RA. She was lying in 
bed and appeared comfortable, but had a difficult time 
explaining the time course of events at times. When mentioning 
hernia, pt seemed unaware of this diagnosis despite having 
discussed it at prior PCP ___.
 
Past Medical History:
. Glaucoma.
2. Hypercholesterolemia.
3. Osteopenia.
4. History of iliotibial band syndrome.
5. Depression.
6. Hearing loss, wears hearing aids.
7. Urinary incontinence, wears a pessary.
8. Lactose intolerance.
9. Bipolar disease, followed at ___.
10. Hypothyroidism.
11. E. Coli UTI with bacteremia, ___.
12. gait disorder undergoing outpatient ___
13. left inguinal hernia
 
Social History:
___
Family History:
Not relevant in this ___ yo F with bacteremia
 
Physical Exam:
VS - 98.1, 128/52, 80, 18, 99% RA
General: NAD
HEENT: no scleral icterus, OP clear.
Neck: no JVD.
CV: RRR, nl S1 S2, no r/m/g appreciated.
BACK: no CVA tenderness
Lungs: CTAB
Abdomen: soft, NT/ND. No organomegaly. +BS.
GU: no Foley.
Ext: WWP, +2 pulses. No pedal edema.
Neuro: AAox2, no focal deficits, grossly CN intact, moves all 
four extremities
Skin: no rashes.
 
Pertinent Results:
ADMISSION LABS:
___ 08:59PM BLOOD WBC-11.5*# RBC-4.67 Hgb-13.7 Hct-43.4 
MCV-93 MCH-29.4 MCHC-31.6 RDW-12.7 Plt ___
___ 08:59PM BLOOD Neuts-94.8* Lymphs-2.3* Monos-2.0 Eos-0.7 
Baso-0.3
___ 08:59PM BLOOD Glucose-128* UreaN-30* Creat-0.9 Na-136 
K-5.5* Cl-104 HCO3-21* AnGap-17
___ 08:59PM BLOOD ALT-15 AST-58* AlkPhos-53 TotBili-0.4
___ 08:59PM BLOOD Calcium-8.5 Phos-2.7 Mg-2.3
___ 08:59PM BLOOD TSH-5.5*
___ 08:59PM BLOOD Lithium-0.6
___ 09:00PM BLOOD Lactate-1.8 K-4.8

DISCHARGE LABS:
___ 06:45AM BLOOD WBC-5.1# RBC-4.12* Hgb-11.7* Hct-38.1 
MCV-92 MCH-28.3 MCHC-30.7* RDW-12.7 Plt ___
___ 05:25AM BLOOD Glucose-87 UreaN-24* Creat-0.9 Na-139 
K-3.6 Cl-107 HCO3-20* AnGap-16
___ 05:25AM BLOOD Calcium-8.9 Phos-2.8 Mg-1.9

URINE:

URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------     8 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ yo F with PMH bladder prolapse, Hypothyroid, Mild dementia, 
OA, Bipolar who presents with significant diarrhea and decreased 
UOP and UTI.

# diarrhea: likely viral syndrome as other people in nursing 
home have had similar sx. Not keeping up with po intake at home 
and vomiting in ED. CT scan without acute process. Checked TSH 
and lithium level as well but were unremarkable. Blood cx NGTD 
on d/c. Mild AST elevation on LFTs which could be c/w viral GI 
process. Diarrhea was profuse enough that pt was unable to keep 
up with volume losses at home despite drinking fluids, so she 
was kept overnight for IV fluids and to administer IV 
antibiotics for UTI initially. She was tolerating po when she 
was discharged.

# UTI: pos u/a. Initially treated with IV CTX, but pt has 
bladder prolapse which could give a false positive u/a and she 
denied dysuria, had no CVA tenderness. Antibiotics were stopped 
and waited for culture data to return. UCx showed >100K E. coli 
sensitive to cipro so she was started on a 3d course of this 
prior to d/c.

# hypothyroidism: TSH 5.5 on recheck, which is unremarkable in 
the acute setting. Continued home levothyroxine. 
# Glaucoma: cont dorzolamide
# Hypercholesterolemia: cont simvastatin
# Osteopenia: cont calcium/Vit D
# bipolar d/o: cont lithium. level was WNL.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Dorzolamide 2% Ophth. Soln. 2 DROP BOTH EYES TID 
2. Estrace (estradiol) 0.01 % (0.1 mg/gram) vaginal daily 
3. Levothyroxine Sodium 50 mcg PO DAILY 
4. Lithium Carbonate 300 mg PO ___ 
5. Simvastatin 10 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Calcium Carbonate 500 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Psyllium 1 PKT PO BID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcium Carbonate 500 mg PO DAILY 
3. Dorzolamide 2% Ophth. Soln. 2 DROP BOTH EYES TID 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Lithium Carbonate 300 mg PO ___ 
6. Multivitamins 1 TAB PO DAILY 
7. Simvastatin 10 mg PO QPM 
8. Vitamin D ___ UNIT PO DAILY 
9. Estrace (estradiol) 0.01 % (0.1 mg/gram) vaginal daily 
10. Psyllium 1 PKT PO BID 
11. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*6 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
viral gastroenteritis
UTI

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You came to the hospital with nausea, vomiting, and diarrhea and 
were dehydrated. You were treated with IV fluids and improved. 
You were also found to have a UTI and were given antibiotics. 
 
Followup Instructions:
___